US07351733B2
6-Bromo-N-[5-(trifluoromethyl)pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (75 mg, 0.28 mmol) and 2-chloro-5-(trifluoromethyl)-pyrimidine (0.5 mL) in a similar manner as described in Example 22 to give 5 mg (4%) of a yellow solid. 1H-NMR (DMSO-d6) taken at 80° C.: δ 10.94-10.88 (m, 1H), 8.69-8.62 (m, 1H), 8.30-8.24 (m, 1H), 7.55 (s, 1H), 7.21 (d, 1H), 7.13-7.10 (m, 1H), 7.02 (d, 1H), 5.40-5.27 (m, 1H), 2.62-2.58 (m, 2H), 2.08-1.96 (m, 2H), 1.87-1.76 (m, 2H); MS m/z (M−1) 409, 411.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.28 mmol, 75 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 2-chloro-5-(trifluoromethyl)-pyrimidine | 0.5 mL | ClC1=NC=C(C=N1)C(F)(F)F | C5H2ClF3N2
product | 6-Bromo-N-[5-(trifluoromethyl)pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=C(C=N1)C(F)(F)F | C17H14BrF3N4
